US05284847
A solution of crude ethyl 2-t-butoxycarbonylamino-4-isobutylthiophene-3-carboxylate and ethyl 2-bis(t-butoxycarbonyl)amino-4-isobutylthiophene-3-carboxylate in methanol (1200 ml) was stirred and a solution of potassium hydroxide (44.8 g, 800 mmol) in water (450 ml) was added. The mixture was heated at 80° C. for 6h and left at room temperature over night. The reaction mixture was diluted with water and the pH adjusted to pH 4-5 with glacial acetic acid under cooling on ice. The product was extracted with ether and after drying with Na2SO4 the ether phase was concentrated in vacuo. The residue was suspended in petroleum ether and 2-t-butoxycarbonylamino-4-isobutylthiophene-3-carboxylic acid (75.2 g) was isolated by filtration. M.p. 154°-155° C. 1H-NMR (CDCl3, δ): 0.95 (d, 6H), 1.55 (s, 9H), 1.9 (m, 1H), 2.7 (d, 2H), 6.35 (s, 1H), 9.3 (br.s, 1H), 10.2 (s, 1H).

reactant | ethyl 2-t-butoxycarbonylamino-4-isobutylthiophene-3-carboxylate | C(C)(C)(C)OC(=O)NC=1SC=C(C1C(=O)OCC)CC(C)C | C16H25NO4S
reactant | ethyl 2-bis(t-butoxycarbonyl)amino-4-isobutylthiophene-3-carboxylate | C(C)(C)(C)OC(=O)N(C=1SC=C(C1C(=O)OCC)CC(C)C)C(=O)OC(C)(C)C | C21H33NO6S
reactant | potassium hydroxide | 800 mmol, 44.8 g | [OH-].[K+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 1200 ml | CO | CH4O
solvent | water | 450 ml | O | H2O
product | 2-t-butoxycarbonylamino-4-isobutylthiophene-3-carboxylic acid | 75.2 g | C(C)(C)(C)OC(=O)NC=1SC=C(C1C(=O)O)CC(C)C | C14H21NO4S
